US08247431B2
Step 3: Preparation of 5-hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester
5-Hydroxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester (46.0 g) is dissolved in concentrated sulfuric acid (200 mL, 97%) at 0-5° C. To this cooled solution is added drop wise fuming nitric acid (7 mL, 100%). After the addition is complete, the reaction mixture is allowed to warm to room temperature. TLC analysis (hexane/ethyl acetate=4:1) after 30 min shows reaction completion. The reaction mixture is slowly poured onto an ice/water mixture (ca. 2 mL) and the crystals were filtered off, washed thoroughly with water and dried in vacuum to afford 47.0 g of the title compound of the formula

reactant | 5-Hydroxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 46.0 g | COC(=O)C1=CC(=C2C=CC(=NC2=C1)C(F)(F)F)O | C12H8F3NO3
reactant | nitric acid | 7 mL | [N+](=O)(O)[O-] | HNO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | sulfuric acid | 200 mL | S(O)(O)(=O)=O | H2O4S
product | 5-hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 47.0 g | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)O)[N+](=O)[O-] | C12H7F3N2O5
